US05470878
3-(5,6-Dihydroxyhexyl)-1-methyluracil (350 mg, 1.4 mmol) was stirred with 30% hydrogen bromide in acetic acid (0.87 ml, 4.3 mmol) for 45 minutes. The solution was added to a mixture of sodium bicarbonate (1.6 g), water (10 ml) and dichloromethane (20 ml). After 15 minutes of vigorous stirring, the layers were separated and the aqueous layer was extracted with dichloromethane (3×40 ml). The combined organic layers were dried over sodium sulfate and the solvent was evaporated under vacuum to give 3-(5-acetoxy-6-bromohexyl)-1-methyluracil (500 mg, 100% yield). The bromoacetate thus obtained was used in the next step without further purification. 3-(5-Acetoxy-6-bromohexyl)-1-methyluracil (360 mg, 1.0 mmol) was dissolved in methanol (5 ml) and treated with a solution of 1M sodium methoxide in methanol (1 ml). After stirring for 15 minutes, the solution was poured into water (10 ml) and extracted with dichloromethane (3×30 ml). The combined organic layers were dried over sodium sulfate and the solvents were evaporated to give 3-(5,6-oxidohexyl)-1-methyluracil (150 mg, 67% yield) as a colorless oil.

reactant | 3-(5,6-Dihydroxyhexyl)-1-methyluracil | 1.4 mmol, 350 mg | OC(CCCCN1C(N(C=CC1=O)C)=O)CO | C11H18N2O4
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 4.3 mmol, 0.87 ml | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | 1.6 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | 3-(5-acetoxy-6-bromohexyl)-1-methyluracil | 500 mg, 100% yield | C(C)(=O)OC(CCCCN1C(N(C=CC1=O)C)=O)CBr | C13H19BrN2O4
